US04347369
Trans-1,2-diamino-6-fluoro-1,2,3,4-tetrahydronaphthalene (3.84 g, 21.3 m mol) was dissolved in ethanol (40 ml) and carbon disulfide (1.4 ml, 23.4 m mol) was added to the solution. After the resulting white suspension was stirred for a while, water (20 ml) was added to the suspension and they were heated under reflux for 30 minutes. The reaction mixture was cooled with ice and the precipitate was filtered. The solid was washed in turn with water (three portions of 20 ml, totaling 60 ml), ethyl ether (20 ml) and n-hexane (50 ml) and dried under vacuum to give trans-7-fluoro-3a,4,5,9b-tetrahydronaphth[1,2-d]imidazoline-2-thione as a yellowish grey solid (3.88 g, 17.4 m mol) in 82% yield. The product was recrystallized from acetone-acetonitrile to give light-yellow needles melting at 256.5° to 257.5° C. (decomposition). The data on spectroscopy were as follows:

reactant | Trans-1,2-diamino-6-fluoro-1,2,3,4-tetrahydronaphthalene | 3.84 g | N[C@H]1[C@@H](CCC2=CC(=CC=C12)F)N | C10H13FN2
reactant | carbon disulfide | 1.4 ml | C(=S)=S | CS2
reactant | water | 20 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | trans-7-fluoro-3a,4,5,9b-tetrahydronaphth[1,2-d]imidazoline-2-thione | 82% yield | FC=1C=C2CC[C@@H]3[C@H](NC(N3)=S)C2=CC1 | C11H11FN2S
